US08217032B2
[4-(2-Azepan-1-yl-ethoxy)-phenyl]-[6-hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone
Dissolve [4-(2-azepan-1-yl-ethoxy)-phenyl]-[6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone (634 mg, 1.2 mmol) in dichloromethane (10 mL). Cool to 0° C., add HCl (2M in ether, 1.2 mL, 2.4 mmol) and stir at room temperature for 15 minutes. Concentrate in vacuo. Redissolve the salt in dichloromethane (10 mL) and cool to 0° C. Add boron tribromide (949 mg, 3.6 mmol) dropwise and bring to room temperature. Stir reaction for 1.5 hour and pour reaction mixture onto ice, saturated sodium bicarbonate (20 mL) and methanol (20 mL). Extract with dichloromethane, combine extracts and wash with water and saturated sodium bicarbonate. Dry with sodium sulfate, filter, and concentrate in vacuo. Purify by silica gel chromatography using a 1-3% gradient of methanol in dichloromethane to yield 350 mg (57%) of the title compound: mass spectrum (ion spray) m/z=520 (M+H).

reactant | [4-(2-azepan-1-yl-ethoxy)-phenyl]-[6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone | 1.2 mmol, 634 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)C1=C(C=C(C=C1F)F)F | C32H30F3NO3
reactant | HCl | 2.4 mmol, 2M, 1.2 mL | Cl | ClH
reactant | boron tribromide | 3.6 mmol, 949 mg | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | [4-(2-Azepan-1-yl-ethoxy)-phenyl]-[6-hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone | 350 mg, 57% | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)O)C1=C(C=C(C=C1F)F)F | C31H28F3NO3
